US07713993B2
Synthesis of 2-[4-chloro-1-(3,4,5-trifluorophenyl)butyl]-5-{(E)-2-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazole
A solution of 5-chloro-2-(3,4,5-trifluorophenyl)pentanoic acid N′-{(E)-3-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide (103 mg) in phosphorus oxychloride (2 mL) was stirred at 120° C. for 3.5 hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure to obtain 99 mg of the title compound. The property value of the compound is as follows.

reactant | 5-chloro-2-(3,4,5-trifluorophenyl)pentanoic acid N′-{(E)-3-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide | 103 mg | FC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NNC(C(CCCCl)C1=CC(=C(C(=C1)F)F)F)=O | C24H21ClF4N4O2
solvent | phosphorus oxychloride | 2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-[4-chloro-1-(3,4,5-trifluorophenyl)butyl]-5-{(E)-2-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-[1,3,4]oxadiazole | 99 mg | ClCCCC(C1=CC(=C(C(=C1)F)F)F)C=1OC(=NN1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)F | C24H19ClF4N4O
